US08114881B2
c) 6-Bromo-N,N,5-trimethyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxamide
N,N,5-Trimethyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxamide (0.14 g, 0.43 mmol) was dissolved under argon in DMF (2 ml) in a vial. N-Bromosuccinimide (0.089 g, 0.5 mmol) was added. The vial was sealed and stirred for 30 minutes. The crude mixture was purified on preparative HPLC to give 0.100 g (57%) of the title compound as a solid.

reactant | N,N,5-Trimethyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxamide | 0.43 mmol, 0.14 g | CN(C(=O)C1=NC=C(N(C1=O)C1=CC(=CC=C1)C(F)(F)F)C)C | C15H14F3N3O2
reactant | N-Bromosuccinimide | 0.5 mmol, 0.089 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 6-Bromo-N,N,5-trimethyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxamide | 0.100 g, 57% | BrC1=C(N(C(C(=N1)C(=O)N(C)C)=O)C1=CC(=CC=C1)C(F)(F)F)C | C15H13BrF3N3O2
